US04131674
A suspension of 6-(7-chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (1 g.) in acetonitrile (100 cc.) containing n-butyl isocyanate (7.25 cc.) and triethylamine (0.5 cc.) is heated at the reflux temperature for 3 hours. n-Butyl isocyanate (2.9 cc.) and triethylamine (2 drops) are then added and heating at the reflux temperature is continued for a further 30 minutes. After concentrating the mixture to dryness under reduced pressure (40 mm.Hg), the residue is triturated with diisopropyl ether (10 cc.). The precipitate is filtered off and recrystallised from acetonitrile (41 cc.) to give 5-n-butylaminocarbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine (0.8 g.) melting at 215° C.

reactant | 6-(7-chloro-1,8-naphthyridin-2-yl)-5-hydroxy-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 1 g | ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=NC=CC=C2C1O)=O | C15H9ClN4O2
reactant | n-butyl isocyanate | 7.25 cc | C(CCC)N=C=O | C5H9NO
reactant | triethylamine | 0.5 cc | C(C)N(CC)CC | C6H15N
reactant | n-Butyl isocyanate | 2.9 cc | C(CCC)N=C=O | C5H9NO
solvent | acetonitrile | 100 cc | C(C)#N | C2H3N
catalyst | triethylamine | 2 drops | C(C)N(CC)CC | C6H15N
product | 5-n-butylaminocarbonyloxy-6-(7-chloro-1,8-naphthyridin-2-yl)-7-oxo-6,7-dihydro-5H-pyrrolo[3,4-b]pyridine | 0.8 g | C(CCC)NC(=O)OC1N(C(C2=NC=CC=C21)=O)C2=NC1=NC(=CC=C1C=C2)Cl | C20H18ClN5O3
